US07638515B2
4-(4-Chloro-3-methoxyphenyl)-2-hydroxy-2-(trifluoromethyl)-pentanal
5.25 g (14.24 mmol) of (rac.) ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoate is dissolved in 53 ml of diethyl ether and mixed at 0° C. with 405.2 mg (10.68 mmol) of lithium aluminum hydride within 30 minutes. The reaction mixture is stirred for 1¼ more hours at 0° C. For hydrolysis, the mixture is mixed drop by drop with 12.5 ml of saturated sodium bicarbonate solution while being cooled in an ice bath. It is stirred vigorously for 30 minutes while being cooled in an ice bath and for 60 minutes at room temperature. The precipitate is suctioned off and washed with diethyl ether. The filtrate is concentrated by evaporation in a rotary evaporator, and the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 3.29 g (71.2%) of the desired aldehyde, which still contains some starting ester and 54.7 mg of the corresponding diol, is isolated.

reactant | (rac.) ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoate | 14.24 mmol, 5.25 g | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)Cl)OC)(O)C(F)(F)F)=O | C16H20ClF3O4
reactant | lithium aluminum hydride | 10.68 mmol, 405.2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium bicarbonate | 12.5 ml | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 53 ml | C(C)OCC | C4H10O
product | 4-(4-Chloro-3-methoxyphenyl)-2-hydroxy-2-(trifluoromethyl)-pentanal | ClC1=C(C=C(C=C1)C(CC(C=O)(C(F)(F)F)O)C)OC | C13H14ClF3O3
